US07425568B2
2-(3-Bromophenyl)-chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 1.0 g of 2-(3-bromophenyl)-6-hydroxychroman-4-one. 1H NMR (300 MHz, d6-DMSO) δ: 8.83 (s, 1H), 7.63 (m, 1H), 7.53 (m, 1H), 7.46 (m, 1H), 7.37 (m, 1H), 6.88 (d, 1H, J 2.9 Hz), 6.62 (d, 1H, J 8.7 Hz), 6.55 (dd, 1H, J 8.7, 2.9 Hz), 5.42 (d, 1H, J 7.0 Hz), 5.14 (d, 1H, J 10.5 Hz), 4.86 (m, 1H), 2.29 (m, 1H), 1.84 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(3-bromophenyl)-6-hydroxychroman-4-one | 1.0 g | BrC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11BrO3
product | 2-(3-Bromophenyl)-chroman-4,6-diol | BrC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13BrO3
